US08025863B2
A 500 mL steel bomb hydrogenator was charged with 38 g of 1-methyl-4-phenylpiperazine, 200 mL of degassed ethanol, and 4 g of a ruthenium 5% on carbon catalyst. The flask was evacuated and purged with hydrogen gas twice, the second time leaving the flask at 800 psig (5620 kPa). The reaction mixture was then heated to 120° C. and left overnight. The next morning the pressure in the flask had decreased significantly; the reaction was cooled, re-pressurized and again brought up to temperature. This was repeated until a minimal pressure decrease was noticed. The reaction mixture was then passed through a thin pad of celite producing a liquid that was subsequently distilled to give 37 g of 1-methyl-4-cyclohexylpiperazine.

reactant | 1-methyl-4-phenylpiperazine | 38 g | CN1CCN(CC1)C1=CC=CC=C1 | C11H16N2
catalyst | ruthenium | 4 g | [Ru] | Ru
solvent | ethanol | 200 mL | C(C)O | C2H6O
product | 1-methyl-4-cyclohexylpiperazine | 37 g | CN1CCN(CC1)C1CCCCC1 | C11H22N2
